US04371537
2-(3,4-dichlorophenoxy)-5-(ethylsulfonyl)pyridine
To 6.7 g of t-BuOK in a mixture of 50 ml of THF and 50 ml of DMSO was added 8.2 g of 3,4-dichlorophenol and then 7.9 g of 2,5-bis(ethylsulfonyl)pyridine, and the resulting mixture heated at 55° C. for 3 hrs. The reaction mixture was cooled and then poured into ice-water. A precipitate formed which was collected by filtration and then washed with water. The recovered solid was then dissolved in CH2Cl2 and dried over MgSO4. The solution was diluted with an equal volume of hexane and treated with silica gel and then filtered. The solution was then concentrated to 50 ml, cooled and 6.5 g of 2-(3,4-dichlorophenoxy)-5-ethylsulfonyl)pyridine recovered as a white powder, m.p. 117°-118° C.

reactant | t-BuOK | 6.7 g | CC(C)(C)[O-].[K+]
reactant | 3,4-dichlorophenol | 8.2 g | ClC=1C=C(C=CC1Cl)O | C6H4Cl2O
reactant | 2,5-bis(ethylsulfonyl)pyridine | 7.9 g | C(C)S(=O)(=O)C1=NC=C(C=C1)S(=O)(=O)CC | C9H13NO4S2
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | DMSO | 50 ml | CS(=O)C | C2H6OS
product | 2-(3,4-dichlorophenoxy)-5-(ethylsulfonyl)pyridine | ClC=1C=C(OC2=NC=C(C=C2)S(=O)(=O)CC)C=CC1Cl | C13H11Cl2NO3S
